US07476399B2
N-(1,2,3,4-tetrahydronaphthalen-1-yl)benzo[d][1,3]dioxole-5-carboxamide
Prepared in a similar manner to example 4 using benzo[d][1,3]dioxole-5-carboxylic acid and 1,2,3,4-tetrahydronaphthalen-1-amine. MS (M+H, 296.6).

reactant | benzo[d][1,3]dioxole-5-carboxylic acid | O1COC2=C1C=CC(=C2)C(=O)O | C8H6O4
reactant | 1,2,3,4-tetrahydronaphthalen-1-amine | C1(CCCC2=CC=CC=C12)N | C10H13N
product | N-(1,2,3,4-tetrahydronaphthalen-1-yl)benzo[d][1,3]dioxole-5-carboxamide | C1(CCCC2=CC=CC=C12)NC(=O)C1=CC2=C(OCO2)C=C1 | C18H17NO3
